US03959322
13β-Ethyl-17β-decanoyloxy-gon-4-en-3-one
Add decanoyl chloride (1.9 g.) to 13β-ethyl-17β-hydroxy-gon-4-en-3-one (1.3 g.) in pyridine (12.5 cc.) and allow the mixture to stand at room temperature overnight. Pour the mixture in 2N hydrochloric acid and extract with ether. Wash, dry and evaporate the extracts and recrystallize the residue from benzene-hexane to give the title compound (1.0 g.), m.p. 97°-97.5°; ultraviolet absorption peak at 239 mμ (ε16,500); infrared absorption peaks at 5.74; 5.99, 6.17 μ.

reactant | decanoyl chloride | 1.9 g | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | 13β-ethyl-17β-hydroxy-gon-4-en-3-one | 1.3 g | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)O | C19H28O2
solvent | pyridine | 12.5 cc | N1=CC=CC=C1 | C5H5N
solvent | hydrochloric acid | 2N | Cl | ClH
product | 13β-Ethyl-17β-decanoyloxy-gon-4-en-3-one | 1.0 g | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)OC(CCCCCCCCC)=O | C29H46O3
